US05587514
Preparation of α-(N,N-dibenzylamino)ethyl methyl ketone
Triethylamine (8.85 mmol, 1.24 mL) was added under an argon atmosphere to a stirred solution of N,N-dibenzylalanine (8.85 mmol, 2.38 g) in tetrahydrofuran (THF) (53.0 mL) at -30° C. (dry ice/CCl4 bath). Trimethyl acetyl chloride (8.85 mmol, 1.42 mL) was then added dropwise via syringe and the turbid solution was allowed to stir at -30° C. for 30 minutes before dropwise addition of a solution of methylmagnesium chloride in THF (3.0M, 1.07 eq., 9.5 mmol, 3.23 mL) over 10 minutes. The solution was stirred for 45 minutes and then quenched with saturated solution of NH4Cl (5.0 mL). The solution was extracted with Et2O, the organic extracts washed with brine, dried over MgSO4, and filtered. The solvent was evaporated in vacuo and the residue was subjected to flash column chromatography on silica gel with 8:1 hexanes/ethyl acetate to isolate a pure product in 65% yield. Colorless oil; Rf =0.43 (7:1 hexanes/ethyl acetate) 1H NMR (300.15 MHz) δ1.19 (d, J=5.4 Hz, 3H), 2.25 (5, 3H), 3.39 (q, J=6.9 Hz, 1H), 2.57 (AB quartet, δA =3.33, δB =3. JAS=13.8 Hz, 4H), 7.19-7.43 (m, 10H); 13C NMR (75.5 MHz 7.1, 27.7, 54.6, 62.9, 27.2, 128.5, 128.8, 139.3, 210.8; IR (Neat) 1710 cm-1 ; MS (low resolution) m/e 268 M+H 22%), 224 (MeCHNBn2, 100%); HRMS for C18H22NO: 268-1709 (calc'd 268-1676); Anal: calc'd for C18H21NO: C 80.68, H 7.92, N 5.24; Found: C 80.79, H 7.95, N 5.17.

reactant | Triethylamine | 8.85 mmol, 1.24 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dibenzylalanine | 8.85 mmol, 2.38 g | C(C1=CC=CC=C1)N([C@@H](C)C(=O)O)CC1=CC=CC=C1 | C17H19NO2
reactant | dry ice CCl4 | C(=O)=O.C(Cl)(Cl)(Cl)Cl
reactant | Trimethyl acetyl chloride | 8.85 mmol, 1.42 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | methylmagnesium chloride | C[Mg]Cl
solvent | tetrahydrofuran | 53.0 mL | O1CCCC1 | C4H8O
solvent | THF | 9.5 mmol, 3.0M, 3.23 mL, 1.07 eq. | O1CCCC1 | C4H8O
product | α-(N,N-dibenzylamino)ethyl methyl ketone | 65% yield | CC(=O)C(C)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C18H21NO
